*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA4R0ARA122MJC0G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA4R0ARA122MJC0G_20deg-C 1 2

C1 4 2 7.12e-04
C2 5 2 2.86e-04
C3 6 2 6.12e-05
R1 3 4 5.60e-03
R2 4 5 2.53e-02
R3 5 6 1.34e+00
L1 1 3 5.10e-09

.ENDS
